US06969716B2
(3-Trifluoromethylsulfanylphenyl)oxoacetaldehyde was reacted with 4-methoxybenzenecarboximidic hydrazide hydriodide salt (1.11 g, 3.78 mmol) using the method described in Example 1 to give 3-(4-methoxyphenyl)-5-(3-trifluoromethylsulfanylphenyl)-[1,2,4]triazine as a yellow solid (820 g): δH (400 MHz, CDCl3) 3.92 (3H, s), 7.06-7.10 (2H, m), 7.67 (1H, t, J 7.8 Hz), 7.90 (1H, d, J 7.8 Hz), 8.35-8.39 (1H, m), 8.56 (1H, s), 8.60-8.64 (2H, m), 9.55 (1H, s); m/z (ES+) 364.

reactant | (3-Trifluoromethylsulfanylphenyl)oxoacetaldehyde | FC(F)(F)SC=1C=C(C=CC1)C(C=O)=O | C9H5F3O2S
reactant | 4-methoxybenzenecarboximidic hydrazide hydriodide salt | 3.78 mmol, 1.11 g | I.COC1=CC=C(C=C1)C(=N)NN
product | 3-(4-methoxyphenyl)-5-(3-trifluoromethylsulfanylphenyl)-[1,2,4]triazine | 820 g | COC1=CC=C(C=C1)C=1N=NC=C(N1)C1=CC(=CC=C1)SC(F)(F)F | C17H12F3N3OS
